US07696229B2
2. Synthesis of benzo[d]isoxazole
Into a 1 L 3-necked round bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed a solution of (E)-2-hydroxybenzaldehyde oxime (3 g, 21.90 mmol) in tetrahydrofuran (300 mL). To the mixture was added PPh3 (6.024 g, 22.99 mmol), while cooling to a temperature of 4° C. This was followed by the addition of a solution of DEAD (4 g, 22.99 mmol) in tetrahydrofuran (150 mL), while cooling to a temperature of 4° C. over a time period of 4 hours. The resulting solution was allowed to react, with stirring, for 1 hour while the temperature was maintained at 4° C. in a bath of H2O/ice. The reaction progress was monitored by TLC (ethyl acetate/petroleum ether=1:2). The mixture was concentrated by evaporation under vacuum using a rotary evaporator. The residue was purified by eluting through a column with a 1:100 ethyl acetate/petroleum ether solvent system. This resulted in 1.8 g (66%) of benzo[d]isoxazole as yellow oil.

reactant | (E)-2-hydroxybenzaldehyde oxime | 21.90 mmol, 3 g | OC1=C(/C=N/O)C=CC=C1 | C7H7NO2
reactant | PPh3 | 22.99 mmol, 6.024 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DEAD | 22.99 mmol, 4 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | benzo[d]isoxazole | O1N=CC2=C1C=CC=C2 | C7H5NO
